US04152441
Under a nitrogen atmosphere and at a temperature between -60° and -65° C. a butyllithium solution, prepared from 2.04 g. (0.29 g. at) of lithium and 15.8 g. (0.116 mol) of butyl bromide in 130 ml. of anhydrous diethyl ether, was added drop-wise to a solution of 9.8 g. (0.088 mol) of 1-(methoxymethyl)imidazole and 10.2 g. (0.088 mol) of N,N,N',N'-tetramethylethylenediamine in 250 ml. of anhydrous tetrahydrofuran. After 2 hours stirring, a solution of 22 g. (0.088 mol) of 3-(trifluoromethyl)benzophenone in 150 ml. of anhydrous tetrahydrofuran were added dropwise to the reaction mixture at a temperature between -60° and -65° C. The reaction mixture was stirred for one hour at -65° C. and it was then kept standing overnight at room temperature. Then 20 ml. of water were added to the reaction mixture and the solvents were distilled off. The residue was dissolved in dilute hydrochloric acid and the solution was washed with diethyl ether and made alkaline with potassium carbonate. The solid substance formed was filtered off and dissolved in chloroform. The solution was dried over sodium sulphate, the solvent was distilled off and the residue was crystallised from isopropyl alcohol. 1-(Methoxymethyl)-α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol was obtained. Melting point 152.5°-153.5° C.

reactant | butyllithium | C(CCC)[Li]
reactant | lithium | 0.29 g | [Li] | Li
reactant | butyl bromide | 0.116 mol | C(CCC)Br | C4H9Br
reactant | 1-(methoxymethyl)imidazole | 0.088 mol | COCN1C=NC=C1 | C5H8N2O
reactant | N,N,N',N'-tetramethylethylenediamine | 0.088 mol | CN(CCN(C)C)C | C6H16N2
reactant | 3-(trifluoromethyl)benzophenone | 0.088 mol | FC(C=1C=C(C(=O)C2=CC=CC=C2)C=CC1)(F)F | C14H9F3O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(Methoxymethyl)-α-phenyl-α-(m-trifluoromethyl-phenyl)imidazole-2-methanol | COCN1C(=NC=C1)C(O)(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=C1 | C19H17F3N2O2
